Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
hyponatremia
 
Major Surgical or Invasive Procedure:
Diagnostic Paracentesis ___
Therapeutic Paracentesis ___

 
History of Present Illness:
___ year old female with alcoholic cirrhosis and insulin 
dependent DM who presents to the ED after being found to be 
hyponatremic with Na=120 in liver clinic. Patient denies 
confusion, fevers, chills, abdominal pain, nausea or vomiting. 
She receives therapeutic paracentesis weekly with removal of 
___ of fluid at a time. She was instructed by Dr. ___ to 
stop her diuretics and come to the ED for a therapeutic 
paracentesis and albumin.

In the Emergency Department:
- Initial Vitals: 97 93 113/75 16 100% RA
- Labs: Na 120 -> 123; Tbili 3.0, ALP 274, peritoneal fluid w/o 
SBP, TSH 12, 
- Studies: RUQ u/s 
1. Cirrhotic liver morphology, without definite evidence of 
focal liver lesions.
2. Large volume ascites.
3. Mild splenomegaly.
4. Minimally distended gallbladder, with a large amount of 
intraluminal sludge.
- Consults: hepatology recommended 50g albumin, diagnostic para, 
admission to liver service
- Pt was given: 50g albumin, 25mg hydroxyzine, 0.5mg IV ativan
Vitals on transfer: 98.7 91 100/53 16 94% RA

On arrival to the floor patient reports that she has been 
requiring more frequent large volume paracentesis. First 
procedure was in ___ the time of her Cirrhosis diagnosis. 
Readmitted ___ with ascites requiring another LVP. On 
discharge she connected with a new Gastroenterologist who 
started LVP every other week. Over the last month she has 
required 3 LVP with the last two occurring two days apart. She 
denies a history of confusion, upper or lower GI bleeding or 
intra-abdominal infections. She complains of diffuse mild 
abdominal pressure that she gets when her ascites accumulates 
and denies shortness of breath, changes in bowel or urinary 
habits, nausea, vomiting, black or bloody stools. Also endorses 
progressive weight loss and muscle weakness over 2 months 
without fevers, night sweats, localized pain and relates the 
changes to losing muscle in her extremities. She has a history 
of thyroid cancer with a total thyroidectomy, now on 
levothyroxine. Endorses progressive all over itching that began 
months ago but has worsened over the last three weeks. She has 
not been keeping to any dietary or fluid restrictions. Denies 
recent illness, fevers, cough, chest pain, orthopnea, diarrhea, 
dysuria.
  
 
Past Medical History:
-Cirrhosis, likely due to ETOH c/b ascites
-DM Type I, adult onset HgbA1c
-Thyroid cancer, diagnosed ___, s/p total thyroidectomy
-Alcohol abuse
 
 
Social History:
___
Family History:
No family history of liver disease, alcoholism, diabetes, 
respiratory diseases
M: alive ___
F: alive ___, obesity
S: deceased, brain cancer
 
 
Physical Exam:
ADMISSION
=========
VS: 98.5 113/67 95 18 96%/RA
GENERAL: ___ female in NAD
HEENT: trace icterus in sclera, PERRL, EOMI, MOM, OP clear, 
buccal icterus
NECK: Supple, non-tender, no LAD, no thyromegaly, JVP flat.
CARDIAC: RRR, normal S1/S2, III/VI HSM LUSB
PULMONARY: NLB on RA, decreased BS bases with trace rales
ABDOMEN: soft, non-tender, distended, +flank dullness, unable to 
assess organomegaly due to distention, NABS
EXTREMITIES: WWP, no cyanosis, clubbing. 1+ edema ___ shins 
bilaterally, peripheral wasting
SKIN: Without rash.  
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. No asterixis
 
DISCHARGE
=========
VS: 98.6 100/56 94 17 100%/RA
Wt: 74.5 kg (bed)
GENERAL: WNWD female in NAD
HEENT: trace icterus in sclera, PERRL, EOMI, MOM, OP clear, 
buccal icterus
NECK: Supple, non-tender, no LAD, no thyromegaly, JVP flat.
CARDIAC: RRR, normal S1/S2, III/VI HSM LUSB
PULMONARY: NLB on RA, decreased BS bases with trace rales
ABDOMEN: soft, non-tender, distended, +flank dullness, unable to 
assess organomegaly due to distention, NABS
EXTREMITIES: WWP, no cyanosis, clubbing, edema, peripheral 
wasting
SKIN: Without rash.  
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. No asterixis
   
 
Pertinent Results:
ADMISSION
=========
___ 01:54PM BLOOD WBC-4.3 RBC-2.68* Hgb-10.0* Hct-28.6* 
MCV-107* MCH-37.3* MCHC-35.0 RDW-14.7 RDWSD-56.5* Plt ___
___ 01:54PM BLOOD ___
___ 01:54PM BLOOD Glucose-273* UreaN-11 Creat-0.8 Na-120* 
K-4.1 Cl-84* HCO3-24 AnGap-16
___ 01:54PM BLOOD Albumin-2.4*
___ 01:54PM BLOOD ALT-24 AST-120* AlkPhos-274* TotBili-3.0*
 
PERTINENT STUDIES
=================
 
LABS
====
___ 10:39AM BLOOD WBC-3.2* RBC-2.32* Hgb-8.3* Hct-24.3* 
MCV-105* MCH-35.8* MCHC-34.2 RDW-15.1 RDWSD-57.8* Plt Ct-90*
___ 10:39AM BLOOD Neuts-65.7 Lymphs-15.2* Monos-12.7 
Eos-5.2 Baso-0.9 NRBC-0.6* Im ___ AbsNeut-2.17 
AbsLymp-0.50* AbsMono-0.42 AbsEos-0.17 AbsBaso-0.03
___ 01:54PM BLOOD %HbA1c-6.5* eAG-140*
___ 01:54PM BLOOD TSH-12*
___ 07:35AM BLOOD T4-5.2 T3-32*
___ 01:54PM BLOOD HBsAg-Negative HBcAb-Negative HAV 
Ab-Negative
___ 01:54PM BLOOD HCV Ab-Negative
___ 04:55AM URINE Color-Yellow Appear-Hazy Sp ___
___ 04:55AM URINE RBC-0 WBC-175* Bacteri-MANY Yeast-NONE 
Epi-9
___ 04:55AM URINE Mucous-RARE
___ 12:33AM ASCITES WBC-35* RBC-435* Polys-1* Lymphs-18* 
Monos-68* Mesothe-2* Macroph-11*
___ 12:33AM ASCITES TotPro-1.3 Glucose-294
___ 05:10PM ASCITES WBC-113* RBC-394* Polys-0 Lymphs-33* 
Monos-4* Mesothe-2* Macroph-61*
___ 05:10PM ASCITES TotPro-1.6 Glucose-213 LD(LDH)-61 
Albumin-LESS THAN 1
 
MICRO
=====
___ 12:33 am PERITONEAL FLUID      PERITONEAL FLUID. 
 
                            **FINAL REPORT ___
 
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 
 
   FLUID CULTURE (Final ___:    NO GROWTH. 
 
   ANAEROBIC CULTURE (Final ___:    NO GROWTH.
 
___ BLOOD CULTURE: pending
 
___ 5:10 pm PERITONEAL FLUID      PERITONEAL FLUID. 
 
                            **FINAL REPORT ___
 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
 
   FLUID CULTURE (Final ___:    NO GROWTH. 
 
   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
 
IMAGING/REPORTS
===============
___ RUS US
IMPRESSION:   
1. Cirrhotic liver morphology, without definite evidence of 
focal liver lesions. 
2. Large volume ascites. 
3. Mild splenomegaly. 
4. Minimally distended gallbladder, with a large amount of 
intraluminal sludge. 
 
___ CXR (PA&LAT)
IMPRESSION:  There no prior chest radiographs available for 
review. 
Bilateral pleural effusions are small.  Bibasilar atelectasis is 
mild.  Upper lungs are clear.  Heart size is normal.  There is 
no pneumothorax. 
 
DISCHARGE
=========
___ 08:09AM BLOOD WBC-3.4* RBC-2.42* Hgb-8.7* Hct-25.7* 
MCV-106* MCH-36.0* MCHC-33.9 RDW-15.1 RDWSD-59.3* Plt ___
___ 08:09AM BLOOD ___ PTT-31.6 ___
___ 08:09AM BLOOD Glucose-186* UreaN-10 Creat-0.8 Na-130* 
K-4.4 Cl-94* HCO3-26 AnGap-14
___ 07:35PM BLOOD Glucose-239* Na-124* K-5.0 Cl-93*
___ 10:39AM BLOOD Calcium-7.9* Phos-3.8 Mg-2.0
___ 08:09AM BLOOD Calcium-7.7* Phos-3.4 Mg-1.9
___ 10:39AM BLOOD ALT-21 AST-84* AlkPhos-200* TotBili-3.3*
___ 08:09AM BLOOD ALT-20 AST-76* AlkPhos-188* TotBili-3.1* 
 
 
Brief Hospital Course:
___ with PMHx ETOH Cirrhosis complicated by ascites with recent 
ETOH use, adult onset DM1 and thyroid cancer s/p total 
thyroidectomy admitted with decompensated Cirrhosis and 
hyponatremia. Asymptomatic hyponatremia to 120 on admission with 
concurrent hyperglycemia to 300s. Corrected sodium below 
previous baseline of 126-128 with Glu in 280s-330s, likely due 
to decompensated cirrhosis combined with increased diuresis as 
patient was instructed to increase home spironolactone from 50 
to 100mg daily for progressively worsening ascites. Diagnostic 
paracentesis ___ without evidence of SBP. Sodium improved 
to 130 (glucose 179) on ___ with holding diuresis and 50 grams 
albumin ___. Hyperglycemia controlled with glargine and 
Humalog. Patient received a therapeutic large volume 
paracentesis ___, removal of 8L accomplished with ascetic fluid 
sent for cell count, cytology, chemistry and culture. Given 50 
grams albumin ___ after LVP. Patient advised to stay overnight 
for monitoring of sodium after albumin and restart of diuretics 
but chose to go home against medical advice and follow with her 
outpatient gastroenterologist. 
 
TRANSITIONAL ISSUES
===================
- requires close follow up of Na, glucose and LFTs
- needs to contact either outpatient GI or Hepatologist for 
dosing instructions after ___ lab draw
- advised of warning signs and risks of leaving against medical 
advice
- CODE: Full (confirmed)
- CONTACT: Boyfriend ___ ___ (h) ___ 
(c)
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 25 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
2. Levothyroxine Sodium 200 mcg PO DAILY 
3. Ranitidine 300 mg PO QHS 
4. Furosemide 20 mg PO DAILY 
5. Spironolactone 100 mg PO DAILY 
6. Loratadine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1. Glargine 25 Units Breakfast
Insulin SC Sliding Scale using REG Insulin
2. Levothyroxine Sodium 200 mcg PO QAM 
3. Ranitidine 300 mg PO QHS 
4. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
5. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0
6. Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0
7. Furosemide 20 mg PO DAILY 
8. Loratadine 10 mg PO DAILY:PRN allergies 
9. Spironolactone 50 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
# Decompensated Cirrhosis
# Hyponatremia
# Hyperglycemia

Secondary
# Diabetes
# Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for a very low sodium in your lab 
results. This is most likely due to a worsening of your liver 
disease and due to high blood sugars. 

Your blood sugars were controlled with insulin and you should 
continue to use both your long acting insulin and your Novolog. 
You should test your blood sugar before each meal at and before 
bedtime. 

You received a paracentesis followed by albumin. 
We planned to check your sodium after your procedure and then 
start your diuretics (furosemide and spironolactone) if your 
sodium was at a safe level.

You were advised to stay overnight and follow your body's 
response to the albumin and restarting diuretics but you chose 
to go home against medical advice and follow up with your 
outpatient gastroenterologist on ___. 

Sodium rising too quickly is extremely dangerous and could 
result in permanent disability or death. You understood these 
risks. 

You should restart your home furosemide and a lower dose of your 
home spironolactone on ___ so the fluid does not accumulate in 
your abdomen too fast. 

It is important that you have labs drawn to follow your sodium, 
blood sugar, and liver function tests and communicate with 
either your current gastroenterologist or your liver doctor 
(___). 

Please make sure you get advice on your medication dosage 
shortly after your lab draw on ___.

If you feel sudden nausea, weakness, tingling, confusion or any 
other symptom that concerns you, please call your doctor or 
return to the hospital.

We wish you the best in health,

Your ___ team

 
Followup Instructions:
___